US07893056B2
To a mixture of (2R)-3-cyclopentyl-2-(hydroxymethyl)propanoic acid (18.3 g, 106 mmol), O-benzyl hydroxyamine hydrochloride (18.62 g, 117 mmol) and 4-(dimethylamino)pyridine (28.5 g, 233 mmol) in dichloromethane (110 mL) at 0° C. was added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (22.3 g, 117 mmol). The mixture was maintained at 0° C. for 3 h. After this time, 500 mL of 1N cold, aqueous HCl solution was added, and the mixture was stirred for another 30 min. The resulting white solid precipitate was collected by filtration. The precipitate was washed with 1N HCl, with water, and with cold DCM. Drying overnight in a vacuum dessicator provided (2R)-3-cyclopentyl-2-(hydroxymethyl)-N-[(phenylmethyl)oxy]propanamide (19.1 g, 65%). LCMS: (M+H)+: 278.1.

reactant | (2R)-3-cyclopentyl-2-(hydroxymethyl)propanoic acid | 106 mmol, 18.3 g | C1(CCCC1)C[C@@H](C(=O)O)CO | C9H16O3
reactant | O-benzyl hydroxyamine hydrochloride | 117 mmol, 18.62 g | Cl.C(C1=CC=CC=C1)ON
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 117 mmol, 22.3 g | Cl.CN(CCCN=C=NCC)C
reactant | HCl | Cl | ClH
catalyst | 4-(dimethylamino)pyridine | 233 mmol, 28.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 110 mL | ClCCl | CH2Cl2
product | (2R)-3-cyclopentyl-2-(hydroxymethyl)-N-[(phenylmethyl)oxy]propanamide | 19.1 g, 65% | C1(CCCC1)C[C@@H](C(=O)NOCC1=CC=CC=C1)CO | C16H23NO3
